US09085583B2
A mixture of 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one (100 mg, 0.65 mmol), 1-(phenylsulfonyl)-1H-indole-3-carboxylic acid (196 mg, 0.65 mmol), O-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (319 mg, 0.84 mmol) and triethylamine (98 mg, 0.97 mmol) in anhydrous dichloromethane (10 mL) was stirred at room temperature for 15 hours. Then the mixture was filtered and the solid was washed with water (10 mL), methanol (10 mL) and dichloromethane (10 mL) in turns to give N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-(phenylsulfonyl)-1H-indole-3-carboxamide as a white solid (78 mg, 28%). LRMS (M+H+) m/z: calcd 435.13. found 435.

reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one | 0.65 mmol, 100 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | 1-(phenylsulfonyl)-1H-indole-3-carboxylic acid | 0.65 mmol, 196 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(=O)O | C15H11NO4S
reactant | O-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.84 mmol, 319 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 0.97 mmol, 98 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-(phenylsulfonyl)-1H-indole-3-carboxamide | 78 mg, 28% | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C23H21N3O4S
